US06307047B1
4-fluoro-3-methylbenzeneboronic acid:
5-Bromo-2-fluorotoluene (6 g, 31.7 mmol) was dissolved in dry THF (50 mL) and cooled to −78° C. under N2. n-BuLi (14 mL, 2.5M solution in THF) was added slowly using a dry syringe. Cloudiness appeared. The reaction was stirred for 40 minutes at −78° C. Triisopropyl borate (22 mL, 95 mmol) was slowly added while stirring. The reaction was allowed to warm to room temperature. Stirring continued for an additional 2 hours. A pale yellow, cloudy solution formed. (TLC (1:2 ethyl acetate/hexanes)) indicated disappearance of the starting material. The reaction was quenched by adding 10% aqueous NaOH (200 mL). After stirring for 45 minutes, 10% citric acid solution (300 mL) was added until, pH ˜5.0. The product was extracted with ethyl acetate (500 mL). The organic phase was washed with brine and dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide an off white solid (yield: 4.1 g, 84%).

reactant | 5-Bromo-2-fluorotoluene | 31.7 mmol, 6 g | BrC=1C=CC(=C(C1)C)F | C7H6BrF
reactant | n-BuLi | 2.5M, 14 mL | [Li]CCCC
reactant | Triisopropyl borate | 95 mmol, 22 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-fluoro-3-methylbenzeneboronic acid | yield: 4.1 g, 84% | FC1=C(C=C(C=C1)B(O)O)C | C7H8BFO2
